US07572809B2
g) Preparation of (1-Chloro-7-fluoro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine
7-Fluoro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol (1.9 g), POCl3 (15 ml), were sealed in a process vial (20 ml). The mixture was heated at 150° C. for 30 minutes under microwave irradiation. The mixture was concentrated, and the residue was treated with 5 ml MeOH. The mixture was stirred for 2 hours at room temperature, and the solid was collected and dried to give desired product (1.3 g, 64% yield). LC-MS: m/e 307 (MH+)

reactant | 7-Fluoro-6-methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | 1.9 g | FC1=C(C=C2C=C(N=C(C2=C1)O)NC1=NNC(=C1)C)OC | C14H13FN4O2
reactant | POCl3 | 15 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (1-Chloro-7-fluoro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 1.3 g, 64% yield | ClC1=NC(=CC2=CC(=C(C=C12)F)OC)NC1=NNC(=C1)C | C14H12ClFN4O
